US06040309
Ethyl 6-(hydroxymethyl)-3-[(3-methoxyphenyl)sulfinyl]benzo[b]thiophene-2-carboxylate
Hydrogen peroxide in water (0.52 ml of 30% w/v, 4.6 mmol) was added to a solution of ethyl 6-(hydroxymethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylate (Preparation 16, 1.73 g, 4.6 mmol) in a mixture of acetic acid (20 ml) and ethanol (10 ml). The mixture was heated to 100° C. for 60 minutes. The solvents were removed by evaporation under reduced pressure, and the residue was partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The organic layer was separated, dried (magnesium sulfate) and concentrated under vacuo, and the residue was flash chromatographed on silica gel using 2% ethanol in dichloromethane as eluant. The title compound was isolated as a foam (1.28 g).

reactant | Hydrogen peroxide | OO | H2O2
reactant | water | 4.6 mmol, 0.52 ml | O | H2O
reactant | ethyl 6-(hydroxymethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylate | 4.6 mmol, 1.73 g | OCC=1C=CC2=C(SC(=C2SC2=CC(=CC=C2)OC)C(=O)OCC)C1 | C19H18O4S2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 6-(hydroxymethyl)-3-[(3-methoxyphenyl)sulfinyl]benzo[b]thiophene-2-carboxylate | OCC=1C=CC2=C(SC(=C2S(=O)C2=CC(=CC=C2)OC)C(=O)OCC)C1 | C19H18O5S2
